US05318993
2,3-Dihydro-6-[(1,1-Dimethylethyl)dimethylsilyloxy]-2,7,8-Trimethyl-2-(4-Methylpent-3-enyl)-4H-1-Benzopyran-4-One
A mixture of 2,3-dihydro-6-hydroxy-2,7,8-trimethyl-2-(4-methylpent-3-enyl )-4H-1-benzopyran-4-one (9.4 q, 34.3 mmole), tert-butyldimethylsilyl chloride (7.75 g, 51.5 mmole), and imidazole (6.99 g, 0.1 mole) were dissolved in 50 mL of dry DMF. The solution was stirred under nitrogen for about 18 hours, poured into water and extracted with ether. The organic layers were dried (brine, MgSO4) and concentrated in vacuo. The crude material was purified by flash chromatography (gradient 20:1 to 10:1 hexanes:ether) to give the title compound as a colorless oil (9.9 g, 24.6 mmole, 72%): 1H NMR (CDCl3) δ 0.20 (s, 6H), 1.0 (s, 9H), 1.37 (s, 3H), 1.55 (s, 3H), 1.55-1.60 (m, 1H), 1.65 (s, 3H), 1.74-1.84 (m, 1H), 2.0-2.1 (m, 2H), 2.14 (s, 3H), 2.16 (s, 3H), 2.63 (ABq, J=16.5 Hz, 2H), 5.07 (t, J=7.0 Hz, 1H), 7.09 (s, 1H); MS m/e 403 (MH+).

reactant | 2,3-dihydro-6-hydroxy-2,7,8-trimethyl-2-(4-methylpent-3-enyl )-4H-1-benzopyran-4-one | 34.3 mmole | OC=1C(=C(C2=C(C(CC(O2)(CCC=C(C)C)C)=O)C1)C)C | C18H24O3
reactant | tert-butyldimethylsilyl chloride | 51.5 mmole, 7.75 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.1 mole, 6.99 g | N1C=NC=C1 | C3H4N2
reactant | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 2,3-Dihydro-6-[(1,1-Dimethylethyl)dimethylsilyloxy]-2,7,8-Trimethyl-2-(4-Methylpent-3-enyl)-4H-1-Benzopyran-4-One | 24.6 mmole, 9.9 g, 72% | CC(C)(C)[Si](OC=1C(=C(C2=C(C(CC(O2)(CCC=C(C)C)C)=O)C1)C)C)(C)C | C24H38O3Si
